US04812573
A mixture of ethyl-4-[7-(3-chlorophenylsulphamoyl)-1,2,3,4-tetrahydroisoquinolin-2-yl]butyrate (0.59 g, 1.35 mmol) and 10% NaOH solution (4 ml) in ethanol (10 ml) was stirred for 1 hr. Ethanol was removed in vacuo, water added (10 ml) and the pH adjusted to 6 with 2N HCl. The resulting precipitate was crystallized from methanol-water to give 4-[7-(3-chlorophenylsulphamoyl)-1,2,3,4-tetrahydroisoquinolin-2-yl]butyric acid. 0.4H2O (0.44 g, 80%); mpt. 201°-203° C.

reactant | ethyl-4-[7-(3-chlorophenylsulphamoyl)-1,2,3,4-tetrahydroisoquinolin-2-yl]butyrate | 1.35 mmol, 0.59 g | C(C)OC(CCCN1CC2=CC(=CC=C2CC1)S(NC1=CC(=CC=C1)Cl)(=O)=O)=O | C21H25ClN2O4S
reactant | NaOH | 4 ml | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-[7-(3-chlorophenylsulphamoyl)-1,2,3,4-tetrahydroisoquinolin-2-yl]butyric acid | ClC=1C=C(C=CC1)NS(=O)(=O)C1=CC=C2CCN(CC2=C1)CCCC(=O)O | C19H21ClN2O4S
